US06372770B1
2-(3-Cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-acetamide
A solution of 1,1′-carbonyl diimidazole (0.31 g, 0.0019 mol) was dissolved in 15 ml of tetrahydrofuran and 2-(3-cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-acetic acid (1.14 g, 0.0027 mol) was added in a tetrahydrofuran (THF) solution. After stirring for 1 hour, the reaction mixture was treated with 2 ml of concentrated NH4OH and stirred a further 3.5 hours. The tetrahydrofuran was removed under reduced pressure and the remaining material was extracted with CH2Cl2. The organic layer was separated and washed with 50 ml of CH2Cl2. A crystalline solid (0.6 g) was isolated after drying and evaporating the CH2Cl2. The solid was recrystallized from 20 ml of CH3OH to yield 0.3 g of title compound, mp 162-164° C.

reactant | 1,1′-carbonyl diimidazole | 0.0019 mol, 0.31 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(3-cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-acetic acid | 0.0027 mol, 1.14 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=C(C=C3CC(=O)O)Cl)C=CC1OC | C22H22ClNO5
reactant | NH4OH | 2 ml | [NH4+].[OH-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(3-Cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-acetamide | 0.6 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=C(C=C3CC(=O)N)Cl)C=CC1OC | C22H23ClN2O4
